US05015419
To 101 g (1.5 moles) of butyl alcohol containing 5 g of ρ-toluene sulfonic acid in 325 ml of benzene at reflux was added dropwise 150 g (ca. 1.5 moles acid) of 70% glycolic acid. The flask was equipped with a Dean-Stark trap to collect the 30% of water from the aqueous glycolic acid mixture and to collect the 27 g (1.5 moles) of water liberated during the reaction--a total of ca. 68 ml. The benzene solution of the product was water washed and dried over anhydrous sodium sulfate. The benzene was stripped off on a rotary evaporator. A short pass distillation at reduced pressure produced a good grade butyl glycolate. The structure was established by infrared and nuclear magnetic resonance spectroscopy.

reactant | butyl alcohol | 1.5 moles, 101 g | C(CCC)O | C4H10O
reactant | ρ-toluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | glycolic acid | ca. 1.5 moles, 150 g | C(CO)(=O)O | C2H4O3
reactant | water | 1.5 moles, 27 g | O | H2O
solvent | benzene | 325 ml | C1=CC=CC=C1 | C6H6
product | butyl glycolate | C(CO)(=O)OCCCC | C6H12O3
